US04331669
Preparation of 4-amino-2,6-bis(trifluoromethyl)pyridine
A mixture of 4-chloro-2,6-bis(trifluoromethyl)pyridine (50 g, 0.20 mole) in concentrated ammonia (250 ml, density 0.88) and ethanol (250 ml) containing copper sulphate (ca. 0.5 g) was stirred and heated in a pressure vessel at 100°-120° C. for 5 hours. The mixture was cooled, extracted with methylene chloride and dried over MgSO4. The solvent was removed under reduced pressure leaving the title compound as a cream solid. The product was recovered in a yield of 26 g, (56% of theoretical), m.p. 147°-149° C.

reactant | 4-chloro-2,6-bis(trifluoromethyl)pyridine | 0.20 mole, 50 g | ClC1=CC(=NC(=C1)C(F)(F)F)C(F)(F)F | C7H2ClF6N
reactant | ammonia | 250 ml | N | H3N
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | copper sulphate | ca. 0.5 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 4-amino-2,6-bis(trifluoromethyl)pyridine | NC1=CC(=NC(=C1)C(F)(F)F)C(F)(F)F | C7H4F6N2
